US08049012B2
9-(4-Chloro-phenoxy)-3-aza-spiro[5.5]undecane
Was prepared according to method A from 4-chlorophenol and 9-hydroxy-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester. Mp. 140-142° C.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 9-hydroxy-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCC(CC2)O | C15H27NO3
product | 9-(4-Chloro-phenoxy)-3-aza-spiro[5.5]undecane | ClC1=CC=C(OC2CCC3(CCNCC3)CC2)C=C1 | C16H22ClNO
